US07858646B2
Synthesis of 5-(3-((4-acetyl-2-ethyl-3-hydroxyphenoxy)methyl)phenylthio) picolinonitrile
Using the method of Preparation 166 using 5-(3-(hydroxymethyl)phenylthio) picolinonitrile (1.70 g, 7.02 mmol) and 1-(3-ethyl-2,4-dihydroxyphenyl)ethanone (1.26 g, 7.02 mmol) affords the title compound (2.20 g, 78%). MS (APCI-neg) m/z (rel intensity): 403 (M−H, 100%).

reactant | 5-(3-(hydroxymethyl)phenylthio) picolinonitrile | 7.02 mmol, 1.70 g | OCC=1C=C(C=CC1)SC=1C=CC(=NC1)C#N | C13H10N2OS
reactant | 1-(3-ethyl-2,4-dihydroxyphenyl)ethanone | 7.02 mmol, 1.26 g | C(C)C=1C(=C(C=CC1O)C(C)=O)O | C10H12O3
product | 5-(3-((4-acetyl-2-ethyl-3-hydroxyphenoxy)methyl)phenylthio) picolinonitrile | 2.20 g, 78% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)SC=2C=CC(=NC2)C#N)C=C1)CC)O | C23H20N2O3S
